US04640915
To a solution of methyl-2-[(3S,4R)-3-(1-hydroxy-1-methylethyl)-2-oxo-4-allylazetidin-1-yl]-3-methylbut-2-enoate (2.41 g) in tetrahydrofuran (72.3 ml) was added dropwise a solution of n-butyl lithium (5.41 ml of 1.74M solution in hexane) at -78° C. After stirring for 10 minutes at the same temperature, hexamethylphosphoric triamide (1.64 ml) was added thereto. The resultant solution was stirred for 15 minutes at -78° C. and a solution of dimethyl sulfate (1.62 ml) in tetrahydrofuran (14.6 ml) was added. The mixture was allowed to warm to ambient temperature over a period of 1.5 hours and stirred at ambient temperature overnight. Acetic acid (0.539 ml) was added to the mixture and the solvent was removed by distillation. The residue was dissolved in ethyl acetate (240 ml), and washed with a mixture of 10% aqueous sodium bicarbonate (10 ml) and a saturated aqueous sodium chloride. The aqueous washings were extracted with ethyl acetate and the combined extracts were washed with a saturated aqueous sodium chloride. After drying over magnesium sulfate, the ethyl acetate solution was filtered and evaporated in vacuo. The residue was chromatographed on silica gel (100 g) eluting with a mixture of ethyl acetate and methylene chloride (1:100 to 1:1) to give methyl 2-[(3S,4R)-3-(1-methoxy-1-methylethyl)-2-oxo-4-allylazetidin-1-yl]-3-methylbut-2-enoate (1.66 g) as an oil.

reactant | methyl-2-[(3S,4R)-3-(1-hydroxy-1-methylethyl)-2-oxo-4-allylazetidin-1-yl]-3-methylbut-2-enoate | 2.41 g | COC(C(=C(C)C)N1C([C@@H]([C@H]1CC=C)C(C)(C)O)=O)=O | C15H23NO4
reactant | n-butyl lithium | 1.74M, 5.41 ml | C(CCC)[Li]
reactant | hexamethylphosphoric triamide | 1.64 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
reactant | dimethyl sulfate | 1.62 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | tetrahydrofuran | 72.3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 14.6 ml | O1CCCC1 | C4H8O
solvent | Acetic acid | 0.539 ml | C(C)(=O)O | C2H4O2
product | methyl 2-[(3S,4R)-3-(1-methoxy-1-methylethyl)-2-oxo-4-allylazetidin-1-yl]-3-methylbut-2-enoate | 1.66 g | COC(C)(C)[C@H]1C(N([C@@H]1CC=C)C(C(=O)OC)=C(C)C)=O | C16H25NO4
